US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone and acryloyl chloride with sodium hydride in dimethylformamide there is obtained {2-chloro-4-fluoro-5-[5-fluoro-2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-phenyl} acrylate, 1H-NMR (CDCl3, 400 MHz): 7.42 ppm d,1H), 7.21 ppm (d,1H), 6.68 ppm (q,1H), 6.35 ppm (q,1H), 6.12 ppm (q,1H), 4.00 ppm (s,3H);

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-fluoro-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=C(C1=O)F)C(F)(F)F)OC)F | C12H6ClF5N2O3
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | {2-chloro-4-fluoro-5-[5-fluoro-2-methoxy-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-phenyl} acrylate | C(C=C)(=O)OC1=C(C=C(C(=C1)N1C(=NC(=C(C1=O)F)C(F)(F)F)OC)F)Cl | C15H8ClF5N2O4
